US09060519B2
A suspension of 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime (76 mg, 0.33 mmol) and cesium carbonate (330 mg, 1.0 mmol) in acetonitrile (10 ml) was stirred at ambient temperature and treated with 2-chlopyrimidine (60 mg, 0.5 mmol). The reaction was monitored by TLC and LC/MS until ca. 70% completion, and then concentrated in vacuo. The solid residue was stirred with ethyl acetate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography, eluting with ethyl acetate:MeOH (95:5), to give isomer B of 1-[2-(3-pyridyl)thiazol-5-yl]-N-pyrimidin-2-yloxy-ethanimine (46 mg, 46%) as white crystals.

reactant | 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime | 0.33 mmol, 76 mg | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=NO | C10H9N3OS
reactant | cesium carbonate | 1.0 mmol, 330 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[2-(3-pyridyl)thiazol-5-yl]-N-pyrimidin-2-yloxy-ethanimine | 46 mg, 46% | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=NOC1=NC=CC=N1 | C14H11N5OS
